US04695622
1.74 g (10.00 mM) of arginine are suspended in 25 ml of dimethylformamide, the solution is added with 4,25 g (11.00 mM) of p-nitrophenyl ester of carbobenzoxy-glycine, the mixture is stirred at room temperature for one day. Dimethylformamide is evaporated, the residue is dissolved in 5 ml of methanol and added with 300 ml of ether. The resulting precipitate is filtered-off, washed with ether on the filter and dried in a vacuum desiccator to give 4.05 g (96%) of carbobenzoxy-leucyl-arginine, m.p. 126°-130° C.

reactant | arginine | 10.00 mM, 1.74 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | carbobenzoxy-leucyl-arginine | 4.05 g, 96% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C20H31N5O5
